US07501422B2
2-{4-[(2S,4S)-4-[5-(2,4-Difluoro-phenyl)-tetrazol-2-yl]-1-(4-fluoro-benzyl)-pyrrolidine-2-carbonyl]-piperazin-1-yl}-benzonitrile
As described for Example 1e, 2-(4-{4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile (60 mg, 0.13 mmol) was converted, using 4-fluoro-benzaldehyde (17 mg, 0.14 mmol) instead of benzaldehyde, to the title compound (8.2 mg, 11%) as light yellow oil. MS m/e=573.1 [M+H]+.

reactant | 2-(4-{4-[5-(2,4-difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-2-carbonyl}-piperazin-1-yl)-benzonitrile | 0.13 mmol, 60 mg | FC1=C(C=CC(=C1)F)C=1N=NN(N1)C1CC(NC1)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C23H22F2N8O
reactant | 4-fluoro-benzaldehyde | 0.14 mmol, 17 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 2-{4-[(2S,4S)-4-[5-(2,4-Difluoro-phenyl)-tetrazol-2-yl]-1-(4-fluoro-benzyl)-pyrrolidine-2-carbonyl]-piperazin-1-yl}-benzonitrile | 8.2 mg, 11% | FC1=C(C=CC(=C1)F)C=1N=NN(N1)[C@H]1C[C@H](N(C1)CC1=CC=C(C=C1)F)C(=O)N1CCN(CC1)C1=C(C#N)C=CC=C1 | C30H27F3N8O
